US07910592B2
To a solution of 8-(4-methoxyphenyl)-1,4-dioxaspiro[4.5]dec-7-ene (526.8 mg, 2.14 mmoL) in EtOH (20 mL) was added 10% Pd/C (50 mg). The reaction was put under an atmosphere of H2 (balloon) and stirred vigorously at room temperature. After 1.5 hours, the catalyst was removed by filtration. The filtrate was concentrated to afford 8-(4-methoxyphenyl)-1,4-dioxaspiro[4.5]decane. 1H NMR (500 MHz, CDCl3): δ 7.14-7.17 (m, 2H), 6.82-6.85 (m, 2H), 3.98 (s, 4H), 3.79 (s, 3H), 2.52 (m, 1H), 1.64-1.86 (m, 8H).

reactant | 8-(4-methoxyphenyl)-1,4-dioxaspiro[4.5]dec-7-ene | 526.8 mg | COC1=CC=C(C=C1)C1=CCC2(OCCO2)CC1 | C15H18O3
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 8-(4-methoxyphenyl)-1,4-dioxaspiro[4.5]decane | COC1=CC=C(C=C1)C1CCC2(OCCO2)CC1 | C15H20O3
